US06897224B2
5-(5-Fluoro-2-methoxyphenyl)-5-methyl-2-(2-methylquinolin-5-ylamino)-3-(trifluoromethyl)hexan-3-ol
231 mg (0.5 mmol) of 5-(5-fluoro-2-methoxyphenyl)-5-methyl-2-(2-methylquinolin-5-ylimino)-3-(trifluoromethyl)hexan-3-ol is mixed in 10 ml of tetrahydrofuran and 4 ml of ethanol with 0.21 ml (1 mmol) of titanium tetraethylate. Then, 875 mg (23.1 mmol) of sodium borohydride is added in portions within 4 days at a reaction temperature of 65° C. The reaction mixture is mixed with 20 ml of saturated NaCl solution after cooling to room temperature, stirred for 1 hour at room temperature, filtered on Celite, and rewashed with ethyl acetate and tetrahydrofuran. The organic phase is separated, washed with saturated NaCl solution, dried and concentrated by evaporation. Column chromatography on silica gel with hexane-ethyl acetate yields 68 mg of the product as a mixture of the two possible diastereomers.

reactant | 5-(5-fluoro-2-methoxyphenyl)-5-methyl-2-(2-methylquinolin-5-ylimino)-3-(trifluoromethyl)hexan-3-ol | 0.5 mmol, 231 mg | FC=1C=CC(=C(C1)C(CC(C(C)=NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C)OC | C25H26F4N2O2
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | sodium borohydride | 23.1 mmol, 875 mg | [BH4-].[Na+]
reactant | NaCl | 20 ml | [Na+].[Cl-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | titanium | 1 mmol, 0.21 ml | [Ti] | Ti
product | 5-(5-Fluoro-2-methoxyphenyl)-5-methyl-2-(2-methylquinolin-5-ylamino)-3-(trifluoromethyl)hexan-3-ol | 68 mg | FC=1C=CC(=C(C1)C(CC(C(C)NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C)OC | C25H28F4N2O2
